US06972295B2
To a solution of 3-fluorophenylacetic acid (5.0 g, 32 mmol) in MeOH (25 mL) and CH2Cl2 (25 mL) at 0° C. was added trimethylsilyldiazomethane (2 M in hexane, 30 mL, 60 mmol). After stirring at room temperature for 15 min, the reaction mixture was concentrated to dryness, and the residue was azeotroped with toluene to give the crude methyl 3-fluorophenylacetate (5.6 g), which was used without further purification. Thus, the crude methyl 3-fluorophenylacetate obtained above (2.5 g, 15 mmol) was converted to the title compound (purified on silica gel) by reacting with 4-chlorobenzyl bromide (4.6 g, 22 mmol) and sodium hexamethyldisilazide (1 M in THF, 15 mL, 15 mmol) following the procedure described in Reference Example 10, Step A. 1H NMR (400 MHz, CD3OD): δ 7.35-6.88 (m, 8H), 3.92 (t, 1H), 3.60 (s, 3H), 3.34 (dd, 1H), 3.00 (dd, 1H). LC-MS: m/e 305 (M+Na)+ (3.9 min).

reactant | 3-fluorophenylacetic acid | 32 mmol, 5.0 g | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
reactant | trimethylsilyldiazomethane | 60 mmol, 2 M, 30 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 25 mL | CO | CH4O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-fluorophenylacetate | 5.6 g | FC=1C=C(C=CC1)CC(=O)OC | C9H9FO2
